US03989691
A solution was prepared containing 5 g. of N-benzoyl-4-(carbethoxymethyl)piperidine in 50 ml of anhydrous toluene. The solution was cooled to about -75° C. under a dry nitrogen atmosphere. 38.3 ml of a 20 percent solution of di-isobutylaluminum hydride in hexane were added slowly with stirring. After the addition had been completed, the reaction mixture was stirred for an additional 3 hours; then 25 ml of 6 N aqueous hydrochloric acid were added. The aqueous layer was separated, washed with methylene chloride, the methylene chloride layer separated and discarded and the aqueous layer neutralized with solid sodium bicarbonate. The resulting amorphous solid was removed by suction filtration and discarded. The filtrate was concentrated in vacuo with gentle heating to a volume of about 50 ml. The resulting solution was saturated with solid sodium chloride and cooled to a temperature in the range 0° - 5° C. with an ice/salt bath. To this solution was added simultaneously with vigorous stirring a solution of 15 g sodium acetate in 15 ml of water and 15 ml of acetic anhydride. After the simultaneous additions had been completed, the reaction mixture was stirred for additional 30 minutes. Excess acid was neutralized with solid sodium carbonate and the resulting aqueous solution extracted with four 75 ml portions of methylene chloride. The methylene chloride extracts were combined and dried and the solvent removed therefrom by evaporation in vacuo. A yield of about 2.31 g of N-acetyl-4-piperidineacetaldehyde boiling in the range 88°-90° C. at 0.03 mm Hg was obtained. The compound had the following physical characteristics.

reactant | N-benzoyl-4-(carbethoxymethyl)piperidine | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CC(=O)OCC | C16H21NO3
reactant | di-isobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 6 N, 25 ml | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | N-acetyl-4-piperidineacetaldehyde | yield of about 2.31 g | C(C)(=O)N1CCC(CC1)CC=O | C9H15NO2
